US05578498
0.271 g of P-(2-phenyl-2-chloro acetyl)dimethylaminobenzene (1 mmole) and 0.274 g of N-(2 hydroxy ethyl)aniline (2.0 mmole) were dissolved in 3 ml of dry ethanol and heated in a sealed tube at 80° C. for 8 hours. On cooling the product crystallized out as pale yellow needles, which was filtered and dried to yield 0.2 g of N-phenyl oxazine Compound 15.

reactant | N-(2 hydroxy ethyl)aniline | 2.0 mmole, 0.274 g | OCCNC1=CC=CC=C1 | C8H11NO
reactant | ethanol | 3 ml | C(C)O | C2H6O
product | N-phenyl oxazine | 0.2 g | C1(=CC=CC=C1)N1OC=CC=C1 | C10H9NO
